.title LED voltage drop

V1 Vs 0 DC 12.15

Rw1 Vs 1 0.0126
Rw2 1 2 0.0126
Rw3 2 3 0.0126
Rw4 3 4 0.0126
Rw5 4 5 0.0126
Rw6 5 6 0.0126
Rw7 6 7 0.0126
Rw8 7 8 0.0126

Rw9 8 9 0.0126
Rw10 9 10 0.0126
Rw11 10 11 0.0126
Rw12 11 12 0.0126

* Cree XLAMP XHP50 12V White LED
* Model valid for 350mA to 1500mA & Tj=25C
.MODEL XHP50 D
+ IS=2.87419E-15
+ N=13.57447
+ RS=0.59063
+ XTI=417.27006
+ EG=2.5000

D1 1 0 XHP50
D2 2 0 XHP50
D3 3 0 XHP50
D4 4 0 XHP50
D5 5 0 XHP50
D6 6 0 XHP50
D7 7 0 XHP50
D8 8 0 XHP50
D9 9 0 XHP50
D10 10 0 XHP50
D11 11 0 XHP50
D12 12 0 XHP50
*----------------------------------------------

.print dc v(Vs) @Rw1[i] v(1) @D1[id] v(6) @D6[id] v(12) @D12[id]

*gnucap
.dc V1 12.15 12.15 1

*ngspice
*.dc 12

.END
